US05434265
A. [2'R-(2'R*,3'R*,6'S*)]-N(t-butyl)-2-[2'-hydroxy-3'-naphth-2-ylthiomethyl-4'-aza-5',8'-dioxo-6'-(N(t-butoxycarbonyl)amino-8'-amino ]octyl benzamide
The subtitled compound was prepared substantially in accordance with the procedure detailed in Example 1 using 0.50 g (1.18 mmol) of the subtitled intermediate of Preparation 1E, 0.289 g (1.24 mmol) of (2S)-2-N(t-butoxycarbonyl-3-carbamoyl propanoic acid 0.163 g (1.21 mmol) of HOBT.H2O and 0.249 g (1.21 mmol) of DCC in 11.5 mL of a 10:1.5 solution of tetrahydrofuran/dimethylformamide to provide a white solid. This solid was purified using flash chromatography (gradient eluent of 1-5% methanol in methylene chloride) to provide 0.64 g of the desired subtitled compound.

reactant | t-butoxycarbonyl-3-carbamoyl propanoic acid | 1.21 mmol, 0.163 g | C(C)(C)(C)OC(=O)C(C(=O)O)CC(N)=O | C9H15NO5
reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | O | H2O
reactant | tetrahydrofuran dimethylformamide | O1CCCC1.CN(C=O)C
product | DCC | 1.21 mmol, 0.249 g, Yield: 85% | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
